US07105544B2
N-[3-(1-{3-[(2,2,2-TRIPHENYLACETYL)AMINO]PROPYL}-4-PIPERIDINYL)PHENYL]CYCLOPROPANECARBOXAMIDE
Example 114 was prepared from triphenylacetic acid and N-{3-[1-(3-aminopropyl)-4-piperidinyl]phenyl}cyclopropanecarboxamide according to the procedures described in Scheme 10: ESMS m/e: 572.3 (M+H)+.

reactant | triphenylacetic acid | C1(=CC=CC=C1)C(C(=O)O)(C1=CC=CC=C1)C1=CC=CC=C1 | C20H16O2
reactant | N-{3-[1-(3-aminopropyl)-4-piperidinyl]phenyl}cyclopropanecarboxamide | NCCCN1CCC(CC1)C=1C=C(C=CC1)NC(=O)C1CC1 | C18H27N3O
product | N-[3-(1-{3-[(2,2,2-TRIPHENYLACETYL)AMINO]PROPYL}-4-PIPERIDINYL)PHENYL]CYCLOPROPANECARBOXAMIDE | C1(=CC=CC=C1)C(C(=O)NCCCN1CCC(CC1)C=1C=C(C=CC1)NC(=O)C1CC1)(C1=CC=CC=C1)C1=CC=CC=C1 | C38H41N3O2
